US07169773B2
(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetic acid
tert-butyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate (9.5 g, 25.9 mM) was dissolved in 200 ml of 4N HCl in dioxane and stirred overnight. Solvent was evaporated under reduced pressure providing 7.8 g of product.

reactant | tert-butyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate | 25.9 mM, 9.5 g | O=C1CC(N(C2=C(N1CC(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C21H22N2O4
solvent | HCl | 4N, 200 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetic acid | 7.8 g | O=C1CC(N(C2=C(N1CC(=O)O)C=CC=C2)C2=CC=CC=C2)=O | C17H14N2O4
